US08865726B2
To a mixture of (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (1.72 g, 4.42 mmol), Cs2CO3 (1.58 g, 4.86 mmol) and DMF (40 mL) was added di-tert-butyl chloromethyl phosphate (1.54 g, 5.96 mmol). The reaction mixture was heated at 80° C. for 2 hours. After cooling, the reaction mixture was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with water and brine, dried and concentrated. The residue was purified by column chromatography (1:1 to 4:1 EtOAc:hexane) to give (S)-di-tert-butyl (3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)methyl phosphate (0.42 g, 16%). LCMS (APCI+) m/z 612 [M+H]+.

reactant | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 4.42 mmol, 1.72 g | N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C20H19N7O2
reactant | Cs2CO3 | 4.86 mmol, 1.58 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | di-tert-butyl chloromethyl phosphate | 5.96 mmol, 1.54 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCl | C9H20ClO4P
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S)-di-tert-butyl (3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)methyl phosphate | 0.42 g, 16% | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCN1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C29H38N7O6P
